US07915263B2
(5) Synthesis of N-(1-tert-butyl-1H-pyrazol-5-yl)-6-(chloromethyl)pyrazin-2-amine
To a solution of 507.3 mg of (6-((1-tert-butyl-1H-pyrazol-5-yl)amino)pyrazin-2-yl)methanol in 6.8 ml of chloroform were successively added 1.08 ml of diisopropylethylamine and 0.24 ml of methylsulfonyl chloride under cooling with ice, followed by stirring the reaction mixture at room temperature for 1.5 hours. To the reaction mixture were successively added 442.9 mg of lithium chloride and 6.8 ml of N,N-dimethylformamide, followed by stirring the reaction mixture at room temperature for 2 hours. After diluting the reaction mixture with ethyl acetate, the ethyl acetate solution was successively washed with water and brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=20/1-1/4) to give the title compound as a yellow solid.

reactant | (6-((1-tert-butyl-1H-pyrazol-5-yl)amino)pyrazin-2-yl)methanol | 507.3 mg | C(C)(C)(C)N1N=CC=C1NC1=CN=CC(=N1)CO | C12H17N5O
reactant | diisopropylethylamine | 1.08 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylsulfonyl chloride | 0.24 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium chloride | 442.9 mg | [Cl-].[Li+]
solvent | chloroform | 6.8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6.8 ml | CN(C=O)C | C3H7NO
product | N-(1-tert-butyl-1H-pyrazol-5-yl)-6-(chloromethyl)pyrazin-2-amine | C(C)(C)(C)N1N=CC=C1NC1=NC(=CN=C1)CCl | C12H16ClN5
